US09388189B2
c) N-(3-morpholino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide
N-(3-Iodo-5-morpholinophenyl)methanesulfonamide (139 mg, 0.33 mmol), bis(pinacolato)diboron (134.4 mg, 0.53 mmol), potassium acetate (108 mg, 1.1 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (27.4 mg, 0.03 mmol) were suspended in dioxane (5 ml) and stirred at 90° C. for 48 h. After usual work-up with water and ethyl acetate, the reaction crude was purified by flash chromatography (0% to 100%, hexane-ethyl acetate) to obtain 44 mg of the title compound as an oil. (35% yield). Purity: 100%.

reactant | N-(3-Iodo-5-morpholinophenyl)methanesulfonamide | 0.33 mmol, 139 mg | IC=1C=C(C=C(C1)N1CCOCC1)NS(=O)(=O)C | C11H15IN2O3S
reactant | bis(pinacolato)diboron | 0.53 mmol, 134.4 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.1 mmol, 108 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-morpholino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 44 mg, 35% yield | O1CCN(CC1)C=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C17H27BN2O5S
